US07235537B2
Phosphoric acid mono-(2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethyl) ester (29nnn)
3.000 g of 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2-hydroxy-ethoxy)-amide, 660 mg of tetrazole and 2.80 mL of di-tertbutyl diisopropyl-phosphoramidite were dissolved/suspended in 30 mL of anhydrous DMF under an atmosphere of dry N2. The reaction mixture was stirred for about 3 hrs after which time the reaction was cooled to −78° C. and 2.50 mL of 70% tert-butyl hydrogen peroxide was added. The cooling bath was then taken away and the reaction was slowly warmed up to room temperature and reacted over night. The reaction was then partitioned between a solution of ethyl ether/ethyl acetate (5:1) and saturated aqueous NaHCO3. The organic layer was saved and successively washed with 10% aqueous sodium sulfite, 3 times with water and finally with brine. The resulting organic layer was dried over MgSO4, filtered and concentrated under vacuum. The residue was dissolved in 45 mL of a solution of TFA/DCM (2:1) under an atmosphere of dry N2. The reaction was stirred at room temperature for about 2 hours after which time it was concentrated under vacuum and the resulting residue was stirred in methanol for about 1 hour. The off-white solid was collected via suction filtration, washed with methanol followed by ethyl ether and then air-dried to give 2.717 g of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 11.94 (brs, 1H), 8.40 (s, 1H), 7.96 (brs, 1H), 7.75 (s, 1H), 7.60 (s, 1H), 7.25 (dd, 1H), 6.37 (dd, 1H), 4.02 (brs, 4H); 19F NMR (376 MHz, DMSO-d6) −132.9 (s, 1F).

reactant | 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2-hydroxy-ethoxy)-amide | 3.000 g | OCCONC(=O)C1=CC2=C(N=CN2C)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C17H15BrClFN4O3
reactant | tetrazole | 660 mg | N1N=NN=C1 | CH2N4
reactant | di-tertbutyl diisopropyl-phosphoramidite | 2.80 mL | C(C)(C)N(P(OC(C)(C)C)OC(C)(C)C)C(C)C | C14H32NO2P
reactant | tert-butyl hydrogen peroxide | 2.50 mL | C(C)(C)(C)OO | C4H10O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Phosphoric acid mono-(2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethyl) ester | 2.717 g | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOP(O)(O)=O)Cl | C17H16BrClFN4O6P
